US08604069B2
(A-82-22) 4-(2-Chloro-5-methylphenylcarbamoyl)-3-[4-cyclopropyl-5-(3-isobutylcyclobutyl)isoxazol-3-yl]butanoic acid
tert-Butyl 4-(2-Chloro-5-methylphenylcarbamoyl)-3-[4-cyclopropyl-5-(3-isobutylcyclobutyl)isoxazol-3-yl]butanoate (1.09 g) and toluene (3.2 mL) were mixed. To the mixture was added trifluoroacetic acid (3.2 mL) at ice temperature and the mixture was stirred at RT for 30 min. After water (5 mL) was poured into the reaction mixture dropwise at ice temperature, aqueous 4 N sodium hydroxide was added to the mixture dropwise and the mixture was extracted with ethyl acetate. The organic layer was washed with brine and dried over sodium sulfate. The sodium sulfate was filtered off and the filtrate was concentrated in vacuo. The resultant residue was purified by silica gel column chromatography (Eluent: ethyl acetate/hexane=1/5→1/3→1/2→2/1→methanol/chloroform=1/8) to give the title compound (905 mg). The title compound was analyzed using a chiral column. The retention time of the title compound was 6.6 min., and the optical purity thereof was 94.8% ee.

reactant | tert-Butyl 4-(2-Chloro-5-methylphenylcarbamoyl)-3-[4-cyclopropyl-5-(3-isobutylcyclobutyl)isoxazol-3-yl]butanoate | 1.09 g | ClC1=C(C=C(C=C1)C)NC(=O)CC(CC(=O)OC(C)(C)C)C1=NOC(=C1C1CC1)C1CC(C1)CC(C)C | C30H41ClN2O4
reactant | toluene | 3.2 mL | C1(=CC=CC=C1)C | C7H8
reactant | trifluoroacetic acid | 3.2 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | sodium hydroxide | 4 N | [OH-].[Na+]
solvent | water | 5 mL | O | H2O
product | 4-(2-Chloro-5-methylphenylcarbamoyl)-3-[4-cyclopropyl-5-(3-isobutylcyclobutyl)isoxazol-3-yl]butanoic acid | 905 mg | ClC1=C(C=C(C=C1)C)NC(=O)CC(CC(=O)O)C1=NOC(=C1C1CC1)C1CC(C1)CC(C)C | C26H33ClN2O4
